US04138490
Triethanolamine (0.243 g.) was added to a stirred suspension of finely powdered α-(1-benzyl-1,2-dihydro-2-oxoquinol-4-yl)propionic acid (0.50 g.) in distilled water (5.0 ml.), and the mixture was stirred overnight at ambient temperature. The solid which had formed was separated and dried in vacuo over phosphorus pentoxide to give triethanolamine α-(1-benzyl-1,2-dihydro-2-oxoquinol-4-yl)propionate (0.7 g.), m.p. 163°-165° C. (decomposition).

reactant | Triethanolamine | 0.243 g | N(CCO)(CCO)CCO | C6H15NO3
reactant | α-(1-benzyl-1,2-dihydro-2-oxoquinol-4-yl)propionic acid | 0.50 g | C(C1=CC=CC=C1)N1C(C=C(C2=CC=CC=C12)C(C(=O)O)C)=O | C19H17NO3
solvent | water | 5.0 ml | O | H2O
product | triethanolamine α-(1-benzyl-1,2-dihydro-2-oxoquinol-4-yl)propionate | 0.7 g | C(C1=CC=CC=C1)N1C(C=C(C2=CC=CC=C12)C(C(=O)O)C)=O.N(CCO)(CCO)CCO | InChI=1S/C19H17NO3.C6H15NO3/c1-13(19(22)23)16-11-18(21)20(12-14-7-3-2-4-8-14)17-10-6-5-9-15(16)17;8-4-1-7(2-5-9)3-6-10/h2-11,13H,12H2,1H3,(H,22,23);8-10H,1-6H2
